US06521643B1
A suspension of 2-fluoro-4-methylpyridine (1.11 g), 4-nitroimidazole (1.24 g) and potassium carbonate (1.65 g) in N,N-dimethylformamide (10 ml) was stirred at 130° C. for 21 hours. After cooling, the mixture was poured into water and stirred for 30 minutes. The precipitate was collected by filtration and dried to give 1-(4-methylpyridin-2-yl)-4-nitroimidazole (698 mg).

reactant | 2-fluoro-4-methylpyridine | 1.11 g | FC1=NC=CC(=C1)C | C6H6FN
reactant | 4-nitroimidazole | 1.24 g | [N+](=O)([O-])C=1N=CNC1 | C3H3N3O2
reactant | potassium carbonate | 1.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(4-methylpyridin-2-yl)-4-nitroimidazole | 698 mg | CC1=CC(=NC=C1)N1C=NC(=C1)[N+](=O)[O-] | C9H8N4O2
